US07893056B2
1,1-Dimethylethyl (3S)-3,4-dimethyl-1-piperazinecarboxylate (3.15 g, 14.7 mmol) in 1N HCl (40 mL) was stirred overnight. Then 4M HCl in 1,4-dioxane (25 mL) was added and the reaction was left to stir overnight. Removed volatiles in vacuo to provide (2S)-1,2-dimethylpiperazine dihydrochloride as a white solid (2.88 g). LCMS: (M+H)+=115.1.

reactant | 1,1-Dimethylethyl (3S)-3,4-dimethyl-1-piperazinecarboxylate | 14.7 mmol, 3.15 g | C[C@H]1CN(CCN1C)C(=O)OC(C)(C)C | C11H22N2O2
reactant | HCl | 1N, 40 mL | Cl | ClH
reactant | HCl | 4M | Cl | ClH
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | (2S)-1,2-dimethylpiperazine dihydrochloride | 2.88 g | Cl.Cl.CN1[C@H](CNCC1)C | InChI=1S/C6H14N2.2ClH/c1-6-5-7-3-4-8(6)2;;/h6-7H,3-5H2,1-2H3;2*1H/t6-;;/m0../s1
